US06265575B1
Part E. 6-Allyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 4-(Dimethylamino)methyl-3-methoxyphenyl Ketone
The title compound was prepared in 73% yield (23% SM recovered) by essentially following the procedures outlined in Example 84, Part A from 6-allyloxy-2-(dimethylamino)benzo[b]thiophene (Part B) and 4-(dimethylamino)methyl-3-methoxybenzoic acid (Part D).

reactant | 6-allyloxy-2-(dimethylamino)benzo[b]thiophene | C(C=C)OC=1C=CC2=C(SC(=C2)N(C)C)C1 | C13H15NOS
reactant | 4-(dimethylamino)methyl-3-methoxybenzoic acid | CN(C)CC1=C(C=C(C(=O)O)C=C1)OC | C11H15NO3
product | 6-Allyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 4-(Dimethylamino)methyl-3-methoxyphenyl Ketone | 73% yield | CN(C)CC1=C(C=C(C=C1)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC=C)OC | C24H28N2O3S
